US05786352
N-[3,5-Bis(trifluoromethyl)benzyl]-2-chloro-N-[(S)-3-hydroxy-2-methylpropyl]-5-methyl-4-phenyl-3-pyridinecarboxamide
The same process as in Step 2 in Reference Example 12 was repeated, except that 2-chloro-5-methyl-4-phenyl-3-pyridinecarboxylic acid was reacted with N-[3,5-bis(trifluoromethyl)benzyl]-N-[(S)-3-hydroxy-2-methylpropyl]amine [this was prepared by reacting 3,5-bis(trifluoromethyl)benzyl methanesulfonate with (S)-3-amino-2-methylpropanol in THF, and this is a colorless oily substance and was identified by NMR(200 MHz, CDCl3) ppm: 0.86(3H,d,J=6.8 Hz), 1.98(1H,m), 2.63(1H,dd,J=9.4,11.8 Hz), 2.70-2.90(3H,m), 3.56(1H,dd,J=8.6,10.6 Hz), 3.71(1H,ddd,J=1.4,4.0,10.6 Hz), 3.87(1H,d,J=13.8 Hz), 3.98(1H,d,J=13.8 Hz), 7.79(3H,s)] in place of reacting 2-chloro-4-phenyl-3-pyridinecarboxylic acid with N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-hydroxyethyl)amine, to obtain the entitled compound as a colorless oily substance. NMR(200 MHz, CDCl3) ppm: 0.60-0.82(3H,m), 1.50-2.00(1H,m), 2.00-2.15(3H,m), 2.15-3.92(4H,m), 4.05-4.92(2H,m), 7.00-7.85(8H,m), 8.34(1H,m)

reactant | 2-chloro-5-methyl-4-phenyl-3-pyridinecarboxylic acid | ClC1=NC=C(C(=C1C(=O)O)C1=CC=CC=C1)C | C13H10ClNO2
reactant | N-[3,5-bis(trifluoromethyl)benzyl]-N-[(S)-3-hydroxy-2-methylpropyl]amine | FC(C=1C=C(CNC[C@@H](CO)C)C=C(C1)C(F)(F)F)(F)F | C13H15F6NO
reactant | 3,5-bis(trifluoromethyl)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H8F6O3S
reactant | (S)-3-amino-2-methylpropanol | NC[C@@H](CO)C | C4H11NO
reactant | 2-chloro-4-phenyl-3-pyridinecarboxylic acid | ClC1=NC=CC(=C1C(=O)O)C1=CC=CC=C1 | C12H8ClNO2
reactant | N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-hydroxyethyl)amine | FC(C=1C=C(CNCCO)C=C(C1)C(F)(F)F)(F)F | C11H11F6NO
solvent | THF | C1CCOC1 | C4H8O
product | N-[3,5-Bis(trifluoromethyl)benzyl]-2-chloro-N-[(S)-3-hydroxy-2-methylpropyl]-5-methyl-4-phenyl-3-pyridinecarboxamide | FC(C=1C=C(CN(C(=O)C=2C(=NC=C(C2C2=CC=CC=C2)C)Cl)C[C@@H](CO)C)C=C(C1)C(F)(F)F)(F)F | C26H23ClF6N2O2
